US08372855B2
4-[(3-chloro-2-fluoro-phenyl)amino]-6-(1,4-dioxa-spiro[4.5]decan-8-yl-oxy)-7-methoxy-quinazoline
12.5 g potassium carbonate and 16 g 8-methanesulphonyloxy-1,4-dioxa-spiro[4.5]decan (cf. for example Journal of Medicinal Chemistry (1992), 35(12), 2243-7) in 125 ml dimethylformamide are added at 50° C. to 18.1 g 4-[(3-chloro-2-fluoro-phenyl)amino]-6-hydroxy-7-methoxy-quinazoline (cf. for example Bioorganic & Medicinal Chemistry Letters (2006), 16(18), 4908-4912) and the mixture is stirred for 18 hours at 80° C. Another 4.7 g potassium carbonate and 4.0 g 8-methanesulphonyloxy-1,4-dioxa-spiro[4.5]decan are added and the mixture is stirred for a further 7 hours at 80° C. The reaction mixture is cooled, diluted with water and ethyl acetate and the precipitate formed is suction filtered and dried.

reactant | potassium carbonate | 12.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 8-methanesulphonyloxy-1,4-dioxa-spiro[4.5]decan | 16 g | CS(=O)(=O)OC1CCC2(OCCO2)CC1 | C9H16O5S
reactant | 4-[(3-chloro-2-fluoro-phenyl)amino]-6-hydroxy-7-methoxy-quinazoline | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)O)OC)F | C15H11ClFN3O2
reactant | potassium carbonate | 4.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 8-methanesulphonyloxy-1,4-dioxa-spiro[4.5]decan | 4.0 g | CS(=O)(=O)OC1CCC2(OCCO2)CC1 | C9H16O5S
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(3-chloro-2-fluoro-phenyl)amino]-6-(1,4-dioxa-spiro[4.5]decan-8-yl-oxy)-7-methoxy-quinazoline | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC1CCC2(OCCO2)CC1)OC)F | C23H23ClFN3O4
